US08067621B2
2-[4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylmethylsulfanyl]-ethanol
Methanesulfonic acid 4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylmethyl ester described in Example 10, Step 6 (230 mg, 0.51 mmol) was dissolved in 7.0 mL of methanol and treated with 992 mg (12.7 mmol) of 2-mercaptoethanol and 2.0 mL of 1 M aqueous NaOH. The mixture was heated with a reflux condenser at 77° C. overnight. The mixture was cooled and partitioned between water and DCM. Aqueous phase was extracted with DCM. Combined organic phase was dried over MgSO4 and concentrated. The product was purified by column chromatography using 20% of EtOAc in hexanes as the eluent (140 mg, 63%)

reactant | Methanesulfonic acid 4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylmethyl ester | ClC1=CC=C(C=C1)S(=O)(=O)C1C(COC2=C(C=CC(=C12)F)F)COS(=O)(=O)C | C17H15ClF2O6S2
reactant | 2-mercaptoethanol | 12.7 mmol, 992 mg | SCCO | C2H6OS
reactant | NaOH | 1 M, 2.0 mL | [OH-].[Na+]
solvent | methanol | 7.0 mL | CO | CH4O
product | 2-[4-(4-Chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-ylmethylsulfanyl]-ethanol | ClC1=CC=C(C=C1)S(=O)(=O)C1C(COC2=C(C=CC(=C12)F)F)CSCCO | C18H17ClF2O4S2
